US05616575
3-Bromostyrene oxide
A solution of 3-bromostyrene (1.0 g, 5.46 mmol) in CH2Cl2 (10 mL) was cooled in an ice bath. 3-Chloroperoxybenzoic acid (57% pure) (1.82 g, 6.01 mmol) was added in one batch and the stirring was continued over 18 h. The reaction mixture was concentrated to a residue and diluted with CCl4 (20 mL). Precipitated m-chlorobenzoic acid was removed by filtration and the filtrate was washed with a 50:50 mixture of 5% aq. NaHCO3 and 5% aq. NaHSO3 (100 mL). The organic extract was dried over Na2SO4 and concentrated under reduced pressure to yield 0.80 g (64%) of product as a yellow oil. 1H NMR (CDCl3) δ2.74 (m, 1, CH), 3.14 (m, 1, CH--), 3.82 (m, 1, --CH--), 7.21 (m, 2, phenyl), 7.42 (m, 2, phenyl).

reactant | 3-bromostyrene | 5.46 mmol, 1.0 g | BrC=1C=C(C=C)C=CC1 | C8H7Br
reactant | 3-Chloroperoxybenzoic acid | 6.01 mmol, 1.82 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromostyrene oxide | 0.80 g, 64% | BrC=1C=C(C2CO2)C=CC1 | C8H7BrO
